US06337423B1
Under a nitrogen atmosphere, 4-amino-benzoic acid benzyl ester (25 mmols) was dissolved in ether (400 mL). The mixture was cooled to 0° C. and trifluoroacetic anhydride (92 mmols) was added. The reaction mixture was stirred at 0° C. for 3 hours, concentrated to dryness, the residue was dissolved in ether, washed with 10% NaHCO3 solution, then brine. The organic phase was dried over MgSO4, filtered, and concentrated to dryness to give 4-(2,2,2-trifluoro-acetylamino)-benzoic acid benzyl ester (8.2 g, 100% yield ) as a white solid. The product was characterized by NMR (CDCl3) and MS (found, M+H=323).

reactant | 4-amino-benzoic acid benzyl ester | 25 mmols | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)N)=O | C14H13NO2
reactant | trifluoroacetic anhydride | 92 mmols | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ether | 400 mL | CCOCC | C4H10O
product | 4-(2,2,2-trifluoro-acetylamino)-benzoic acid benzyl ester | 8.2 g, 100% yield | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)NC(C(F)(F)F)=O)=O | C16H12F3NO3
